US06664247B2
To a solution of 2,4-dichloro-6-phenyl-pyrimidine (300 mg, 1.33 mmol) and 3-amino-5-methylpyrazole (129 mg, 1.33 mmol) in DMF (7 mL) is added triethylamine (195 μL, 1.40 mmol) followed by sodium iodide (200 mg, 1.33 mmol) and the reaction mixture is stirred for 15 hours at 90° C. The resulting solution is partitioned between ethyl acetate and water and the organic phase washed with brine, dried over MgSO4 then concentrated in vacuo. The residue is triturated in methanol and the resulting white solid collected by filtration to afford (2-chloro-6-phenyl-pyrimidin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine (236 mg, 62%).

reactant | 2,4-dichloro-6-phenyl-pyrimidine | 1.33 mmol, 300 mg | ClC1=NC(=CC(=N1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | 3-amino-5-methylpyrazole | 1.33 mmol, 129 mg | NC1=NNC(=C1)C | C4H7N3
reactant | triethylamine | 1.40 mmol, 195 μL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.33 mmol, 200 mg | [I-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (2-chloro-6-phenyl-pyrimidin-4-yl)-(5-methyl-2H-pyrazol-3-yl)-amine | 236 mg, 62% | ClC1=NC(=CC(=N1)NC=1NN=C(C1)C)C1=CC=CC=C1 | C14H12ClN5
